US04879382
To magnesium turnings (1.4 g) in 10 ml of diether ether and 10 ml of tetrahydrofuran, was added a solution of 6.2 g of 3-(N,N-dimethylamino)propyl chloride in 10 ml of tetrahydrofuran. Initiation of the reaction was achieved by the addition of 1 ml of dibromoethane and the application of heat. After stirring at 70° C. for one hour, the reaction mixture was treated with a solution of 5.0 g of 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine in 50 ml of tetrahydrofuran over a period of ten minutes. The reaction mixture was then stirred at 60° C. for thirty minutes, poured into 20 ml of an ammonium chloride solution (iced), stirred for five minutes, and extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The concentrate was purified by means of high pressure liquid chromatography (silica gel; elution with 50% methanol/dichloromethane) to afford 3.6 g (50%) of 10,11-dihydro-5-methyl-10-[3-(N,N-dimethylamino)propyl]-5H-pyrido-[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine as an oil.

reactant | magnesium | 1.4 g | [Mg] | Mg
reactant | 3-(N,N-dimethylamino)propyl chloride | 6.2 g | CN(C)CCCCl | C5H12ClN
reactant | dibromoethane | 1 ml | BrC(C)Br | C2H4Br2
reactant | 5-methyl-5H-pyrido[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 5.0 g | CN1N2C(C=NC3=C1C=CN=C3)=CC=C2 | C11H10N4
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5-methyl-10-[3-(N,N-dimethylamino)propyl]-5H-pyrido-[3,4-f]pyrrolo[1,2-b][1,2,5]triazepine | 3.6 g, 50% | CN1N2C(C(NC3=C1C=CN=C3)CCCN(C)C)=CC=C2 | C16H23N5
